US04126687
To a stirred and cooled (10° C.) mixture of 20 parts of 3-[(2-amino-6-chlorophenyl)amino]-1-propanol, 12 parts of a hydrochloric acid solution and 100 parts of water is added dropwise a solution of 9 parts of potassium cyanate in 30 parts of water: Upon completion, stirring is continued first for 2 hours at room temperature and further overnight at reflux temperature. After cooling, the product is extracted with trichloromethane. The extract is washed with a diluted hydrochloric acid solution, dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 9 parts (41%) of 4-chloro-1,3-dihydro-3-(3-hydroxypropyl)-2H-benzimidazol-2-one.

reactant | 3-[(2-amino-6-chlorophenyl)amino]-1-propanol | NC1=C(C(=CC=C1)Cl)NCCCO | C9H13ClN2O
reactant | hydrochloric acid | Cl | ClH
reactant | potassium cyanate | [O-]C#N.[K+]
solvent | water | O | H2O
product | 4-chloro-1,3-dihydro-3-(3-hydroxypropyl)-2H-benzimidazol-2-one | 41% | ClC1=CC=CC=2NC(N(C21)CCCO)=O | C10H11ClN2O2
